US06887891B2
9.1. 2-(dimethylamino)-5-nitrobenzonitrile:
1.66 g (10.0 mmol) of 2-fluoro-5-nitrobenzonitrile, 1.22 g (15.1 mmol) of dimethylamine hydrochloride and 3.46 g (25.1 mmol) of potassium bicarbonate is dissolved, under an argon atmosphere, in DMF (30 ml) then the reaction medium is heated at a temperature of 80° C. for 18 hours. The reaction mixture is cooled down to 0° C. and ice-cooled water is added. The reaction mixture is extracted with ethyl acetate and the organic phase is washed successively with 50 ml of water and 50 ml of salt water, dried over magnesium sulphate, filtered and concentrated under vacuum. The evaporation residue is purified by trituration with isopropyl ether and the solid obtained is filtered and rinsed with isopentane in order to obtain after drying 2.0 g of a solid yellow product (yield 100%). Melting point: 109-110.5° C.

reactant | 2-fluoro-5-nitrobenzonitrile | 10.0 mmol, 1.66 g | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | dimethylamine hydrochloride | 15.1 mmol, 1.22 g | Cl.CNC
reactant | potassium bicarbonate | 25.1 mmol, 3.46 g | C([O-])(O)=O.[K+]
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-(dimethylamino)-5-nitrobenzonitrile | yield 100% | CN(C1=C(C#N)C=C(C=C1)[N+](=O)[O-])C | C9H9N3O2
